US07169773B2
(3R)-1-[2-(6-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-2-oxoethyl]-5-phenyl-3-(4,5,6,7-tetrahydro-1H-indazol-3-ylmethyl)-1H-1,5-benzodiazepine-2,4(3H,5H)-dione
A solution of (3R)-3-(1H-indazol-3-ylmethyl)-1-[2-(6-methoxy-2,3,4,5-tetrahydro-1H -1-benzazepin-1-yl)-2-oxoethyl]-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione (32 mg) in ethyl acetate (4 mL) was treated with 10% palladium on charcoal (300 mg). Placed under H2 environment (by balloon) and stirred at room temperature for 48 hours. Filtered through celite and concentrated to dryness. Chromatographed on silica gel (Hexane:Ethyl Acetate). Lyophilized the residue to yield the title compound as a white solid (5.3 mg)

reactant | (3R)-3-(1H-indazol-3-ylmethyl)-1-[2-(6-methoxy-2,3,4,5-tetrahydro-1H -1-benzazepin-1-yl)-2-oxoethyl]-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 32 mg | N1N=C(C2=CC=CC=C12)C[C@H]1C(N(C2=C(N(C1=O)CC(=O)N1CCCCC3=C1C=CC=C3OC)C=CC=C2)C2=CC=CC=C2)=O | C36H33N5O4
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 300 mg | [Pd] | Pd
product | (3R)-1-[2-(6-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-2-oxoethyl]-5-phenyl-3-(4,5,6,7-tetrahydro-1H-indazol-3-ylmethyl)-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 5.3 mg | COC1=CC=CC2=C1CCCCN2C(CN2C([C@H](C(N(C1=C2C=CC=C1)C1=CC=CC=C1)=O)CC1=NNC=2CCCCC12)=O)=O | C36H37N5O4
